US08633208B2
4-(4-methyl-1H-imidazol-1-yl)-2-aminomethylaniline
To 4-(4-methyl-1H-imidazol-1-yl)-2-cyanoaniline (15.5 g; 78.2 mmol) dissolved in 10% NH3/methanol was added Raney-Nichel (5 g), the resulting mixture was hydrogenated at 60° C., at an hydrogen pressure of 60 bar, for 24 hours. The nitrogen purged reaction mixture was filtered on celite, the cake was washed with methanol and the combined filtrate and washings evaporated. The residue was purified by column chromatography over silica gel (DCM/MeOH/2M NH3, 85:10:5) evaporation of the combined appropriate fractions afforded the pure titled product as yellow-orange solid (12.9 g, 82%). C11H14N4, MW: 202.26; 1H-NMR (300 MHz, d6-DMSO) ppm: 2.13 (s, 3H), 5.24 (s, 2H), 6.67 (d, 1H), 7.08 (dd, 1H), 7.17 (t, 1H), 7.23 (d, 1H), 7.81 (d, 1H).

reactant | 4-(4-methyl-1H-imidazol-1-yl)-2-cyanoaniline | 78.2 mmol, 15.5 g | CC=1N=CN(C1)C1=CC(=C(N)C=C1)C#N | C11H10N4
reactant | hydrogen | [H][H] | H2
solvent | NH3 methanol | N.CO
catalyst | Nichel | 5 g | [Ni+2]
product | 4-(4-methyl-1H-imidazol-1-yl)-2-aminomethylaniline | 12.9 g, 82% | CC=1N=CN(C1)C1=CC(=C(N)C=C1)CN | C11H14N4
